US07365042B2
4-Trifluoromethyl-pyridine-3-sulfonyl chloride (0.45 g) was dissolved in dioxane (3 ml), and ami-noacetonitrile (1.0 g) was added to the mixture and allowed to stand at ambient temperature overnight. The reaction was diluted with 0.5% HCl and 37% HCl was added dropwise until the mixture became acidic. This was extracted three times with ethyl acetate. The ethyl acetate portions were combined, washed with saturated sodium bicarbonate and dried with magnesium sulfate. The drying agent was filtered away and the solvent evaporated to give 0.14 g of crude 4-Tri-fluoromethyl-pyridine-3-sulfonic acid cyanomethyl-amide, which was chromatographed an silica gel using methylene chloride to yield 0.06 g of purified 4-Trifluoromethyl-pyridine-3-sulfonic acid cyanomethyl-amide. LC/ms analysis with RT=1.12 min yielded a purity of 99% m+/m− of 265.87/263.88. Melting point of the purified compound tested as 158-159° C.

reactant | 4-Trifluoromethyl-pyridine-3-sulfonyl chloride | 0.45 g | FC(C1=C(C=NC=C1)S(=O)(=O)Cl)(F)F | C6H3ClF3NO2S
reactant | ami-noacetonitrile | 1.0 g | NCC#N | C2H4N2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | HCl | Cl | ClH
product | 4-Tri-fluoromethyl-pyridine-3-sulfonic acid cyanomethyl-amide | 0.14 g | C(#N)CNS(=O)(=O)C=1C=NC=CC1C(F)(F)F | C8H6F3N3O2S
